US06720324B2
(4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylic acid:
A stirred mixture of one mole equivalent of methyl (4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate (10.0 g, 32.0 mmol) and lithium hydroxide (2 equivalents, 1.53 g, 64.0 mol) in H2O-THF (2:1, 300 mL) was heated at reflux temperature for 1 h. The reaction mixture was concentrated, dissolved in water, washed with ethyl acetate and acidified (1 N HCl) to pH 3-4 (pH paper). The precipitated product was collected, washed with water and dried under reduced pressure to give the desired product in 90% yield.

reactant | methyl (4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | 32.0 mmol, 10.0 g | FC=1C=C(C=CC1F)[C@H]1NC(NC(=C1C(=O)OC)COC)=O | C14H14F2N2O4
reactant | lithium hydroxide | 64.0 mol, 1.53 g, 2 equivalents | [OH-].[Li+]
solvent | H2O THF | 300 mL | O.C1CCOC1
product | (4R)-4-(3,4-difluorophenyl)-6-(methoxymethyl)-2-oxo-1,2,3,4-tetrahydro-5-pyrimidinecarboxylic acid | 90% yield | FC=1C=C(C=CC1F)[C@H]1NC(NC(=C1C(=O)O)COC)=O | C13H12F2N2O4
